US06482852B2
(d) 3-[3,4-Bis-(diethoxy-phosphoryl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid
To a solution of 3-[3,4-Bis-(diethoxy-phosphoryl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid methyl ester (110 mg, 0.2 mmol) in 5 mL of THF cooled to 0° C. was added dropwise a solution of lithium hydroxide monohydrate (8.5 mg, 0.2 mmol) in 1.0 mL of water. The reaction mixture was stirred at 0° C. for 1 h. THF was removed under reduced pressure to a yellow oil which was diluted with 10 mL of 1 N HCl. The aqueous phase was extracted with CH2Cl2 (2×15 mL), and the extracts were combined, dried over Na2SO4, and concentrated to afford an oil 107 mg (100%). MS [M−H]− 537.

reactant | 3-[3,4-Bis-(diethoxy-phosphoryl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid methyl ester | 0.2 mmol, 110 mg | COC(C(CC1=CC(=C(C=C1)P(=O)(OCC)OCC)P(=O)(OCC)OCC)NC(=O)OC(C)(C)C)=O | C23H39NO10P2
reactant | lithium hydroxide monohydrate | 0.2 mmol, 8.5 mg | O.[OH-].[Li+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
product | 3-[3,4-Bis-(diethoxy-phosphoryl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid | 107 mg, 100% | C(C)OP(=O)(OCC)C=1C=C(C=CC1P(=O)(OCC)OCC)CC(C(=O)O)NC(=O)OC(C)(C)C | C22H37NO10P2
